US04245097
One-tenth mole of 4-(16-bromohexadecylamino)benzoyl chloride hydrochloride in methylene chloride is added to a solution of 0.1 mole of ethyl thiazolidine-4-carboxylate in chloroform containing two equivalents of triethylamine. After 5 hours at 20° C. the solution is filtered and evaporated to a white solid which is recrystallized from acetonitrile to yield 3-[4-(16-bromohexadecylamino)benzoyl]-4-carbethoxythiazolidine. By means of the alkaline hydrolysis method of Example 10, the ethyl ester is converted to the subject carboxylic acid. This acid is also prepared using the procedure of this Example except that the acylation of the thiazolidine-4-carboxylic acid is carried out in aqueous acetone sodium bicarbonate solution.

reactant | 4-(16-bromohexadecylamino)benzoyl chloride hydrochloride | Cl.BrCCCCCCCCCCCCCCCCNC1=CC=C(C(=O)Cl)C=C1
reactant | ethyl thiazolidine-4-carboxylate | 0.1 mole | S1CNC(C1)C(=O)OCC | C6H11NO2S
reactant | chloroform | two equivalents | C(Cl)(Cl)Cl | CHCl3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[4-(16-bromohexadecylamino)benzoyl]-4-carbethoxythiazolidine | BrCCCCCCCCCCCCCCCCNC1=CC=C(C(=O)N2CSCC2C(=O)OCC)C=C1 | C29H47BrN2O3S
